US06642253B2
2a. 1-Amino-6-methoxy-3-methyl-isoquinoline
A solution of 2.12 g of 3-methoxyphenylacetone and 1.26 mL of phosphoryl chloride in 45 mL of anhydrous toluene was heated under reflux. After 30 minutes the mixture was cooled to 0° C. and a solution of 0.57 g of cyanamide in 23 mL of anhydrous ether was added dropwise. The reaction mixture was allowed to warm to room temperature and stirred at this temperature for one hour. Then the stirred mixture was cooled to 0° C. and 1.5 mL of titanium tetrachloride was added dropwise. The reaction mixture was heated under reflux for 2.5 hours, cooled, 34 mL of water added, the mixture filtered and the sediment was washed with ethyl acetate. The filtrate was made basic using 2N aqueous sodium hydroxide and acted with ethyl acetate. The organic extracts were washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by silica chromatography (dichloromethane/methanol=95/5) yielding 0.42 g of the title compound. 1H-NMR 400 MHz (CDCl3) δ: 2.45 (3H, s), 3.91 (3H, s), 5.0 (2H, br. s), 6.81 (1H, s), 6.90 (1H, d, J=3 Hz), 7.02 (1H, dd, J=3 Hz and J=9 Hz), 7.65 (1H, d, J=9 Hz).

reactant | 3-methoxyphenylacetone | 2.12 g | COC=1C=C(C=CC1)CC(C)=O | C10H12O2
reactant | phosphoryl chloride | 1.26 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | cyanamide | 0.57 g | N#CN | CH2N2
reactant | water | 34 mL | O | H2O
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 23 mL | CCOCC | C4H10O
catalyst | titanium tetrachloride | 1.5 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 1-Amino-6-methoxy-3-methyl-isoquinoline | 0.42 g | NC1=NC(=CC2=CC(=CC=C12)OC)C | C11H12N2O
